US08710049B2
E: 3-Methyl-1-(4-nitrophenyl)piperidine-3-carboxylic acid
To a solution of ethyl 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxylate (2.920 g, 9.99 mmol) in THF (12.50 mL) and MeOH (12.5 mL) was added 2 M aqueous solution of LiOH (25 mL, 50 mmol). The resulting yellow solution was stirred at rt for 22 hrs. The reaction was adjusted to pH=5 with 3N aqueous HCl. The solution was extracted with EtOAc (3×). The combined EtOAc extracts were washed with saturated aqueous NaCl (2×), dried over Na2SO4, filtered and concentrated. The obtained yellow solid was dried under high vacuum to give the desired product, 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxylic acid (2.650 g, 9.53 mmol, 95% yield) as a yellow solid. Anal. Calcd. for C13H16N2O4 m/z 264.2, found: 265.1 (M+H)+; 1H NMR (400 MHz, CDCl3) δ ppm 8.08 (d, J=9.34 Hz, 2H), 6.89 (d, J=9.34 Hz, 2H), 4.13 (d, J=12.64 Hz, 1H), 3.64 (ddd, J=12.50, 4.53, 4.40 Hz, 1H), 3.10-2.99 (m, 1H), 2.94 (d, J=13.19 Hz, 1H), 2.33-2.18 (m, 1H), 1.88-1.69 (m, 2H), 1.53-1.37 (m, 1H), 1.25 (s, 3H).

reactant | ethyl 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxylate | 9.99 mmol, 2.920 g | CC1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C15H20N2O4
reactant | LiOH | 50 mmol, 25 mL | [Li+].[OH-]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 12.50 mL | C1CCOC1 | C4H8O
solvent | MeOH | 12.5 mL | CO | CH4O
product | 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxylic acid | 9.53 mmol, 2.650 g, 95% yield | CC1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H16N2O4
